US04910286
To a suspension lithium aluminum hydride (15.2 g) in tetrahydrofuran (500 mL) is added over a period of 60 minutes ethyl 3-[3-(1,1-dimethylethyl)-4-hydroxy-5-methylphenyl]propionate (80.0 g) in tetrahydrofuran (100 mL). The mixture is heated at reflux for 2 hours and then quenched by the sequential addition of water (17 mL), 10% aqueous sodium hydroxide (17 mL) and water (51 mL). The resulting suspension is washed with tetrahydrofuran and the filtrate is concentrated to give 40 g of crude 3-[3-(1,1-dimethylethyl)-4-hydroxy-5-methylphenyl]propanol. The crude intermediate is crystallized from heptane/toluene to give 38 g of light yellow crystals. The 1H NMR and field desorption spectra are consistent with the above-specified product.

reactant | lithium aluminum hydride | 15.2 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 3-[3-(1,1-dimethylethyl)-4-hydroxy-5-methylphenyl]propionate | 80.0 g | CC(C)(C)C=1C=C(C=C(C1O)C)CCC(=O)OCC | C16H24O3
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 3-[3-(1,1-dimethylethyl)-4-hydroxy-5-methylphenyl]propanol | 40 g | CC(C)(C)C=1C=C(C=C(C1O)C)CCCO | C14H22O2
